US05880130
Using an analogous procedure to that described in Example 13, 4-chloro-6-(3'-methylanilino)pyrimidine (0.23 g) was reacted with 4-(carbamoylmethoxy)aniline to give 4-[4'-(carbamoylmethoxy)anilino]6-(3'-methylanilino)pyrimidine in 30% yield, m.p. 212°-215° C.;

reactant | 4-chloro-6-(3'-methylanilino)pyrimidine | 0.23 g | ClC1=NC=NC(=C1)NC1=CC(=CC=C1)C | C11H10ClN3
reactant | 4-(carbamoylmethoxy)aniline | C(N)(=O)COC1=CC=C(N)C=C1 | C8H10N2O2
product | 4-[4'-(carbamoylmethoxy)anilino]6-(3'-methylanilino)pyrimidine | 30% yield | C(N)(=O)COC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C19H19N5O2
